US04853410
6,7-Dichloro-2-(trifluoromethyl)benzo[b]pyran
A solution of 4.62 g of crude product of the preceding Preparation, 4-(3,4-dichloro-6-hydroxyphenyl)-1,1,1-trifluoro-butan-2,4-dione (about 40% by NMR) and 4.6 ml trifluoroacetic acid in 27.6 ml methylene chloride was heated at reflux for 8 hours, then allowed to stand at 23° C. for 16 hours. The reaction was washed with 3×25 ml 1N sodium hydroxide and 25 ml brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 2.0 g (86%) of product; m.p. 98°-101° C.

reactant | 4-(3,4-dichloro-6-hydroxyphenyl)-1,1,1-trifluoro-butan-2,4-dione | ClC=1C=C(C(=CC1Cl)O)C(CC(C(F)(F)F)=O)=O | C10H5Cl2F3O3
reactant | trifluoroacetic acid | 4.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 27.6 ml | C(Cl)Cl | CH2Cl2
product | 6,7-Dichloro-2-(trifluoromethyl)benzo[b]pyran | 2.0 g, 86% | ClC1=CC=2C(OC(=CC2)C(F)(F)F)C=C1Cl | C10H5Cl2F3O
